US04808727
A solution of 2.42 g of 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazole is treated with 2.42 g of p-dimethylaminophenacyl bromide. After stirring at 40° for 30 minutes, the product is crystallized out by the addition of ether and recrystallized from methylene chloride/ether. There is obtained 3-[p-dimethylamino)phenacyl]-1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazolium bromide of melting point 247°.

reactant | 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazole | 2.42 g | CN(C1=CC=C(C=NN2C(=NC=C2)CC)C=C1)C | C14H18N4
reactant | p-dimethylaminophenacyl bromide | 2.42 g | CN(C1=CC=C(C(CBr)=O)C=C1)C | C10H12BrNO
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazolium bromide | [Br-].CN(C1=CC=C(C=N[N+]2=C(NC=C2)CC)C=C1)C | InChI=1S/C14H18N4.BrH/c1-4-14-15-9-10-18(14)16-11-12-5-7-13(8-6-12)17(2)3;/h5-11H,4H2,1-3H3;1H
